US07262201B1
The starting material was prepared using an analogous procedure to that described in Example 9. Ethyl-2-(3-pyridylcarbonyl)acetate (1 g, 5.18 mmol) was treated with hydrazine hydrate (251 μl, 5.2 mmol) to give 3-(3-pyridyl)-4,5-dihydro-1H-pyrazol-5-one (413 mg, 50%).

reactant | Ethyl-2-(3-pyridylcarbonyl)acetate | 5.18 mmol, 1 g | C(C)OC(CC(=O)C=1C=NC=CC1)=O | C10H11NO3
reactant | hydrazine hydrate | 5.2 mmol, 251 μl | O.NN
product | 3-(3-pyridyl)-4,5-dihydro-1H-pyrazol-5-one | 413 mg, 50% | N1=CC(=CC=C1)C1=NNC(C1)=O | C8H7N3O
